US05763450
1.53 g of 3-iodoaniline and 2.78 ml of triethylamine are dissolved in 25 ml of methylene chloride and treated dropwise at room temperature with a solution of 1.6 ml of cyclopropane carbonyl chloride in 10 ml of methylene chloride. The mixture is stirred at room temperature for a further 5 hrs., evaporated and poured into 50 ml of water. The mixture is made slightly acid with dil. hydrochloric acid and extracted three times with ethyl acetate. The residue is recrystallized from toluene. 1.47 g of cyclopropanecarboxylic acid (3-iodo-phenyl)-amide are isolated as a colourless solid. Yield: 74%. M.p.=133°.

reactant | 3-iodoaniline | 1.53 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | triethylamine | 2.78 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carbonyl chloride | 1.6 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | cyclopropanecarboxylic acid (3-iodo-phenyl)-amide | 1.47 g, Yield: 74% | IC=1C=C(C=CC1)NC(=O)C1CC1 | C10H10INO
